US04830660
A mixture consisting of 5.1 g of 1-(2-pyridyl)imidazole-2-thiol, 5.2 g of anhydrous potassium carbonate, 3.7 g of benzyl chloride and 50 ml of acetonitrile was stirred at room temperature for 4 hours. After completion of the reaction, solids were filtered off and the filtrate was concentrated under reduced pressure. Crystals precipitated were collected by filtration to give 7.1 g of 2-benzylthio-1-(2-pyridyl)imidazole (m.p.: 76° to 77° C.). To a mixture consisting of 7.1 g of the thus obtained crystals, 50 ml of methylene chloride, 50 ml of water and 22 g of conc. hydrochloric acid was added dropwise 80 g of 6% sodium hypochlorite solution under vigorous stirring at -10° to 0° C. over 1 hour. After completion of the dropwise addition, the resulting mixture was stirred at the same temperature for 30 minutes. Then, the organic layer was separated and the aqueous layer was extracted with methylene chloride. After the organic layers were combined and washed with water, to the organic layer was added dropwise 10 ml of a 28% aqueous ammonia under ice-cooling while vigorous stirring. After completion of the dropwise addition, the resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated to dryness and the thus obtained concentrated residue was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure to give 3.0 g of a crude product of the desired compound. Crystals precipitated from the resulting crude product were collected by filtration to give 0.8 g of the desired compound. m.p.: 187° to 188° C.

reactant | 1-(2-pyridyl)imidazole-2-thiol | 5.1 g | N1=C(C=CC=C1)N1C(=NC=C1)S | C8H7N3S
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 3.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-benzylthio-1-(2-pyridyl)imidazole | 7.1 g | C(C1=CC=CC=C1)SC=1N(C=CN1)C1=NC=CC=C1 | C15H13N3S
